US06544978B2
—Synthesis of 4-Phenyl-3,4-dihydrocarbostyril 4-Phenyl-3,4-dihydrocarbostyril (CAS #4888-33-9) was prepared in two steps using the procedure described by Conley, R. T.; Knopka, W. N. J Org. Chem. 1964, 29, 496-497. The starting materials for this preparation were cinnamoyl chloride (Aldrich) and aniline (Aldrich). The title compound was purified by flash chromatography eluting with CH2Cl2/EtOAc (4:1).

reactant | cinnamoyl chloride | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
reactant | aniline | NC1=CC=CC=C1 | C6H7N
product | 4-Phenyl-3,4-dihydrocarbostyril 4-Phenyl-3,4-dihydrocarbostyril | C1(=CC=CC=C1)C1CC(NC2=CC=CC=C12)=O.C1(=CC=CC=C1)C1CC(NC2=CC=CC=C12)=O | 2C15H13NO
